US04002643
A solution of 14.9g (0.137 mole) of 1-methylpyrrole-3-carboxaldehyde, 7.3 ml (0.137 mole) of nitromethane, 2.3 ml (.021 mole) of benzyl amine and 1.2 ml (.021 mole) of acetic acid in 20 ml of absolute ethanol is warmed briefly and stirred for 6 hours. It is then cooled and the precipitated solid is collected, giving as a yellow solid, 1-methyl-3-(2-nitrovinyl)pyrrole; m.p. 90°-92° C.

reactant | 1-methylpyrrole-3-carboxaldehyde | 0.137 mole, 14.9g | CN1C=C(C=C1)C=O | C6H7NO
reactant | nitromethane | 0.137 mole, 7.3 ml | [N+](=O)([O-])C | CH3NO2
reactant | benzyl amine | .021 mole, 2.3 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | .021 mole, 1.2 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-methyl-3-(2-nitrovinyl)pyrrole | CN1C=C(C=C1)C=C[N+](=O)[O-] | C7H8N2O2
